US04228168
8.0 g of dimethyl glutarate were added to 8.70 g of N-methyl-tryptamine (i.e., 3-(2-methylaminoethyl)-indole), and the mixture was heated at 150° C. under reduced pressure for 2 hours. After the reaction was completed, the mixture was acidified with dilute hydrochloric acid and then extracted with ethyl acetate. The extract was washed with water, an aqueous saturated sodium bicarbonate solution and an aqueous saturated sodium chloride solution, successively. The washed extract was dried and evaporated under reduced pressure to remove solvent. The residue thus obtained was recrystallized from a mixture of ethyl acetate and n-hexane. 11.3 g of N-methyl-N-(4-methoxycarbonylbutyryl)-tryptamine (i.e., 3-[2-(N-methyl-4-methoxycarbonylbutanamido)ethyl]-indole) were thereby obtained. M.p. 101°-102° C. Yield: 70%

reactant | dimethyl glutarate | 8.0 g | C(CCCC(=O)OC)(=O)OC | C7H12O4
reactant | N-methyl-tryptamine | 8.70 g | CNCCC1=CNC2=CC=CC=C12 | C11H14N2
reactant | hydrochloric acid | Cl | ClH
product | N-methyl-N-(4-methoxycarbonylbutyryl)-tryptamine | 11.3 g, Yield: 70% | CN(CCC1=CNC2=CC=CC=C12)C(CCCC(=O)OC)=O | C17H22N2O3
